US04555263
A solution of sodium hydroxide (0.15 g) in water (5 ml) and then ethoxyamine hydrochloride (0.37 g) were added to a solution of 3-hydroxy-5-(4-methylthiophenyl)-2-propionylcyclohex-2-en-1-one (1.0 g) in ethanol (40 ml). The mixture was stirred at room temperature and the progress of the reaction was monitored by thin layer chromatography on silica gel (eluant dichloromethane). On completion of the reaction the solvent was removed by distillation under reduced pressure. The residue was treated with dichloromethane and the organic phase was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one (0.95 g) as a yellow oil.

reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | ethoxyamine hydrochloride | 0.37 g | Cl.C(C)ON
reactant | 3-hydroxy-5-(4-methylthiophenyl)-2-propionylcyclohex-2-en-1-one | 1.0 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)SC)=O)C(CC)=O | C16H18O3S
solvent | water | 5 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one | 0.95 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C18H23NO3S
